US03962445
a. 4-Hydroxy-1,6,7-trimethyl carbostyril
To a solution of 4,5-dimethyl-N-methyl anthranilic acid (30.0g.; 0.168 mole; m.p. 190°- 191°C) in glacial acetic acid (75 ml.) was added acetic anhydride (75 ml.) and the mixture was refluxed for 4 hrs. After cooling the dark solution was poured onto crushed ice, made alkaline (pH 9), and filtered. On bringing the filtrate to pH5 with concentrated hydrochloric acid the title product separated as a white solid, m,p. (EtOH) 300°- 305°C (Found: C, 70.12; H, 6.30; N, 7.12; C12H13NO2 requires; C, 70.92; H, 6.45; N, 6.89%).

reactant | 4,5-dimethyl-N-methyl anthranilic acid | 0.168 mole, 30.0g | CC=1C=C(C(C(=O)O)=CC1C)NC | C10H13NO2
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-1,6,7-trimethyl carbostyril | OC1=CC(N(C2=CC(=C(C=C12)C)C)C)=O | C12H13NO2
